US07790746B2
To a solution of 6-amino-4-quinolone (O1) (112 mg, 0.71 mmol) and aqueous formaldehyde (40% w/v, 1.6 mL, 21.2 mmol) in EtOH (10 mL) were sequentially added NaBH3CN (335 mg, 5.67 mmol) and 1N HCl (2.8 mL, 2.8 mmol), and the resulting bright yellow suspension was stirred at room temperature for 15 minutes. After this time, solvent was removed under reduced pressure, and the residue then dried by two MeOH azeotrope cycles. The residue was resuspended in MeOH and filtered through Celite, and solvent was removed under reduced pressure. The residue was crystallized from MeOH:EtOAc to give 6-dimethylamino-4-quinolone (O2) (80 mg, 60%) as an amorphous tan solid; 1H NMR [(CD3)2SO] δ 2.93 [s, 6H, ArN(CH3)2], 5.90 [d, J=7.00 Hz, 1H, ArH], 7.13 [br s, ArOH], 7.24 [m, 2H, ArH], 7.45 [dd, J=7.41, 2.29 Hz, 1H, ArH], 7.74 [d, J=7.00 Hz, 1H, ArH]. LCMS (APCl+): 189 (100%). Rf=0.48 (10% MeOH:CH2Cl2).

reactant | 6-amino-4-quinolone | 0.71 mmol, 112 mg | NC=1C=C2C(CC=NC2=CC1)=O | C9H8N2O
reactant | formaldehyde | 21.2 mmol, 1.6 mL | C=O | CH2O
reactant | NaBH3CN | 5.67 mmol, 335 mg | [BH3-]C#N.[Na+]
reactant | HCl | 2.8 mmol, 1N, 2.8 mL | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
product | 6-dimethylamino-4-quinolone | 80 mg, 60% | CN(C=1C=C2C(CC=NC2=CC1)=O)C | C11H12N2O
